US07345057B2
2-((1-(2,5-dichlorophenylsulfonyl)piperidin-4-yl)methyl)-1,2,3,4-tetrahydroisoquino-line.
2,5-dichlorobenzene-1-sulfonyl chloride (108.1 mg, 0.44 mmol) was added to a solution of 2-(piperidin-4-ylmethyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride (92.1 mg, 0.40 mmol) and N,N-diisopropylethylamine (206.9.2 mg, 1.60 mmol) in CH2Cl2 (10 mL) and the mixture was stirred overnight at room temperature. The resulting solution was washed with water (3×10 mL), dried over Na2SO4, and evaporated to dryness. The free base was dissolved in ethyl acetate (1 ml). A 2.8 M solution of hydrogen chloride in ethanol (0.10 mL) was then added. The product was crystallized and collected by filtration, and vacuum dried to give a white solid (138 mg, 78%).

reactant | 2,5-dichlorobenzene-1-sulfonyl chloride | 0.44 mmol, 108.1 mg | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 2-(piperidin-4-ylmethyl)-1,2,3,4-tetrahydroisoquinoline dihydrochloride | 0.40 mmol, 92.1 mg | Cl.Cl.N1CCC(CC1)CN1CC2=CC=CC=C2CC1
reactant | N,N-diisopropylethylamine | 1.60 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((1-(2,5-dichlorophenylsulfonyl)piperidin-4-yl)methyl)-1,2,3,4-tetrahydroisoquino-line | 138 mg, 78% | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N1CCC(CC1)CN1CC2=CC=CC=C2CC1 | C21H24Cl2N2O2S
